US07635698B2
1-(4-Chloro-phenyl)-[1,4]diazepane
The crude 4-(4-Chloro-phenyl)-[1,4]diazepane-1-carboxylic acid tert-butyl ester (3.10 g, 10.0 mmol) was dissolved in methylene chloride (1 mL) and treated with 4 N HCl/dioxane (10 mL, 40 mmol). The solution was stirred at rt for 1 hour. The reaction was concentrated in vacuo. The residue was diluted with saturated aqueous sodium bicarbonate (100 mL) and extracted with ethyl acetate (3×30 mL). The combined organics were washed with brine, dried over MgSO4, and evaporated to yield 1.00 g (48%) of the title compound. 1H-NMR (CDCl3) δ: 1.90 (2H, m), 2.23 (1H, brs), 2.83 (2H, m), 3.02 (2H, m), 3.54 (4H, m), 6.58 (2H, d, j=9.3 Hz), 7.13 (2H, d, j=9.3 Hz). ESI-MS m/z: 211 (M+1), FAS method rt: 1.04 min.

reactant | 4-(4-Chloro-phenyl)-[1,4]diazepane-1-carboxylic acid tert-butyl ester | 10.0 mmol, 3.10 g | C(C)(C)(C)OC(=O)N1CCN(CCC1)C1=CC=C(C=C1)Cl | C16H23ClN2O2
reactant | HCl dioxane | 40 mmol, 4 N, 10 mL | Cl.O1CCOCC1
solvent | methylene chloride | 1 mL | C(Cl)Cl | CH2Cl2
product | 1-(4-Chloro-phenyl)-[1,4]diazepane | 1.00 g, 48% | ClC1=CC=C(C=C1)N1CCNCCC1 | C11H15ClN2
